US08633173B2
(3-Methanesulfonyl-phenyl)-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and 1-bromo-3-methanesulfonyl-benzene (75.0 mg, 0.319 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (30.0 mg, 0.0549 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow solid (0.089 g, 77%). MP=230-234° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.55 (d, J=6.9 Hz, 1H), 8.47 (s, 1H), 8.26 (d, J=7.9 Hz, 2H), 8.12 (d, J=7.5 Hz, 2H), 7.74-7.69 (m, 2H), 7.58-7.50 (m, 2H), 7.17 (s, 1H), 7.12-7.07 (m, 1H), 3.11 (s, 6H). MS=443 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 1-bromo-3-methanesulfonyl-benzene | 0.319 mmol, 75.0 mg | BrC1=CC(=CC=C1)S(=O)(=O)C | C7H7BrO2S
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0549 mmol, 30.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | (3-Methanesulfonyl-phenyl)-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | CS(=O)(=O)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C20H18N4O4S2
